US07745641B2
In a similar manner to Step 3 of Example 16, 3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (2.00 g, 7.48 mmol) was dissolved in THF (80 mL), and the solution was treated with TMEDA (2.50 mL, 16.5 mmol), sec-butyl lithium-hexane solution (0.99 mol/L, 16.6 mL, 16.5 mmol) and 1,2-dibromotetrachloroethane (2.92 g, 8.98 mmol), followed by purification by flash column chromatography (chloroform/methanol=95/5 to 90/10) to obtain 3-hydroxy-7-bromo-2-(1-methyl-1-phenylethyl)isoindolinone (2.20 g, yield 85%).

reactant | 3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 7.48 mmol, 2.00 g | OC1N(C(C2=CC=CC=C12)=O)C(C)(C1=CC=CC=C1)C | C17H17NO2
reactant | TMEDA | 16.5 mmol, 2.50 mL | CN(C)CCN(C)C | C6H16N2
reactant | 1,2-dibromotetrachloroethane | 8.98 mmol, 2.92 g | BrC(C(Br)(Cl)Cl)(Cl)Cl | C2Br2Cl4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-7-bromo-2-(1-methyl-1-phenylethyl)isoindolinone | 2.20 g, yield 85% | OC1N(C(C2=C(C=CC=C12)Br)=O)C(C)(C1=CC=CC=C1)C | C17H16BrNO2
